US08623859B2
5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-N-methylfuran-3-carboxamide
To a stirred solution of 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.14 mmol), EDCI (33 mg, 0.17 mmol) and HOAt (23 mg, 0.17 mmol) in DMF (0.5 mL) was added a solution of 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine.HCl (28 mg, 0.13 mmol) and DIPEA (0.025 mL, 0.14 mmol) in DMF (0.5 mL). The reaction was heated to 60° C. for 5 h, then concentrated and diluted with DCM. The solution was washed with saturated aqueous NH4Cl(2×2 mL) and saturated brine (2 mL), and dried over MgSO4. The filtrate was shaken with Ambersep resin for 48 h, then filtered. The solvent was removed in vacuo and a portion of the crude product purified using prep method C.

reactant | 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.14 mmol, 60 mg | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)Cl | C13H10BrCl2NO5S
reactant | EDCI | 0.17 mmol, 33 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.17 mmol, 23 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine | N1C(=NCC1)C1=CC=C(C=C1)CNC | C11H15N3
reactant | HCl | 0.13 mmol, 28 mg | Cl | ClH
reactant | DIPEA | 0.14 mmol, 0.025 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-({[(4-bromo-2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)-N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-N-methylfuran-3-carboxamide | BrC1=CC(=C(C(=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(C)CC1=CC=C(C=C1)C=1NCCN1)Cl | C24H23BrCl2N4O4S
